US06518257B1
(ii) Production of 1-[3-(2-furyl)phenyl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 1-[3-(2-furyl)phenyl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.54 g) and pyridine hydrochloride (610 mg), the title compound (597 mg) was obtained as colorless plate crystals.

reactant | 1-[3-(2-furyl)phenyl]-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.54 g | O1C(=CC=C1)C=1C=C(C=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | pyridine hydrochloride | 610 mg | Cl.N1=CC=CC=C1
product | 1-[3-(2-furyl)phenyl]-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 597 mg | O1C(=CC=C1)C=1C=C(C=CC1)C(C(C)C)(O)C=1N=CNC1 | C17H18N2O2
